US07776882B2
4-(2-Amino-6-phenoxy-quinolin-3-yl)-N-cyclohexyl-N-methyl-4-(tetrahydro-pyran-4-yl)-butyramide
A solution of 5-cyano-6-(2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid cyclohexyl-methyl-amide (0.37 g, 0.697 mmol) in methanol was divided evenly into two microwave tubes containing Zn (0.9 g, 13.8 mmol) and NH4Cl (0.1 g, 1.87 mmol). The reaction mixture was subjected to μW at 95° C. for 900 sec. The reaction mixture was filtered through Celite®, and the filtrate was evaporated in vacuo to yield a crude product which was purified on a silica gel column (10% MeOH/dichloromethane) to yield the title compound as a residue.

reactant | 5-cyano-6-(2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid cyclohexyl-methyl-amide | 0.697 mmol, 0.37 g | C1(CCCCC1)N(C(CCC(C(=CC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-])C#N)C1CCOCC1)=O)C | C31H37N3O5
reactant | NH4Cl | 1.87 mmol, 0.1 g | [NH4+].[Cl-]
solvent | methanol | CO | CH4O
catalyst | Zn | 13.8 mmol, 0.9 g | [Zn] | Zn
product | 4-(2-Amino-6-phenoxy-quinolin-3-yl)-N-cyclohexyl-N-methyl-4-(tetrahydro-pyran-4-yl)-butyramide | NC1=NC2=CC=C(C=C2C=C1C(CCC(=O)N(C)C1CCCCC1)C1CCOCC1)OC1=CC=CC=C1 | C31H39N3O3
